US04520018
5-Phenylsulfenyl-4-oxo-valeric acid methylester
To 100 ml of a 1M methanolic sodium thiophenolate solution there was added 22 g (0.1 mole) 5-bromo-4-oxo-valeric acid methylester during 40 minutes and the reaction mixture was stirred for two hours at room temperature. The methanol was distilled off in vacuo, to the residue there was added 200 ml ethyl acetate, and the mixture was washed successively with 30 water, 30 ml sodium bicarbonate solution, 30 ml saturated saline solution, then dried over magnesium sulfate, filtered, and the solvent was distilled off. The residue was chromatographed on a column using a 4:1 mixture of hexane and ethyl acetate as an eluent.

reactant | sodium thiophenolate | 1M | C1(=CC=CC=C1)[S-].[Na+]
reactant | 5-bromo-4-oxo-valeric acid methylester | 0.1 mole, 22 g | COC(CCC(CBr)=O)=O | C6H9BrO3
product | 5-Phenylsulfenyl-4-oxo-valeric acid methylester | COC(CCC(CSC1=CC=CC=C1)=O)=O | C12H14O3S
